US06492348B1
(2R,3R,4R,5R)4-(acetyloxy)-2-(2,6-dichloro-9H-purin-9-yl)-5-(5-ethylisoxazol-3-yl)tetrahydrofuran-3-yl acetate
(2R,3R,4R)-4,5-bis(acetyloxy)-2-(5-ethylisoxazol-3-yl)tetrahydrofuran-3-yl acetate isomer 1 (193 mg) was dissolved in acetonitrile (5 ml) and treated sequentially with 2,6-dichloropurine (213 mg), 1,8-diazabicyclo[5.4.0]undec-7-ene (DBU) (0.186 ml) and trimethylsilyl trifluoromethanesulphonate (TMSOTf) (0.225 ml) via a syringe over 5 min. The clear yellow solution was stirred at 22° C. for 40 h, at 60° C. for 21 h, and at 80° C. for 6 h. The mixture was cooled to room temperature and more DBU (0.186 ml) and TMSOTf (0.225 ml) were added. After stirring at 22° C. for 36 h the yellow mixture was heated at 60° C. overnight and at 80° C. for 6 h. The solvents were removed in vacuo and the resultant brown oily solid taken up in ethyl acetate and washed with water (20 ml, 3:1). The aqueous layer was extracted with ethyl acetate and the combined organic layers dried (MgSO4) and evaporated in vacuo to afford a brown oily solid. The residue was triturated with dichloromethane and a white solid removed by filtration. Evaporation of the filtrate afforded a tan solid. Purification by flash chromatography on silica gel eluting with ether:cyclohexane (1:1) afforded the title compound as a white solid (161 mg).

reactant | (2R,3R,4R)-4,5-bis(acetyloxy)-2-(5-ethylisoxazol-3-yl)tetrahydrofuran-3-yl acetate | C(C)(=O)O[C@@H]1[C@H](OC([C@@H]1OC(C)=O)OC(C)=O)C1=NOC(=C1)CC | C15H19NO8
reactant | 2,6-dichloropurine | 213 mg | ClC1=NC(=C2NC=NC2=N1)Cl | C5H2Cl2N4
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.186 ml | N12CCCCCC2=NCCC1 | C9H16N2
reactant | trimethylsilyl trifluoromethanesulphonate | 0.225 ml | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
reactant | DBU | 0.186 ml | N12CCCCCC2=NCCC1 | C9H16N2
reactant | TMSOTf | 0.225 ml | [Si](C)(C)(C)OS(=O)(=O)C(F)(F)F | C4H9F3O3SSi
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | (2R,3R,4R,5R)4-(acetyloxy)-2-(2,6-dichloro-9H-purin-9-yl)-5-(5-ethylisoxazol-3-yl)tetrahydrofuran-3-yl acetate | 161 mg | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)C1=NOC(=C1)CC)N1C2=NC(=NC(=C2N=C1)Cl)Cl | C18H17Cl2N5O6
